US06593344B1
4-(4-Phenyl-piperidin-1-yl)-butylamine
20 g (61.2 mmol) 2-[4-(4-phenyl-piperidin-1-yl)-butyl]-isoin-dolin-1,3-dione and 6.1 g (122.5 mmol) hydrazine hydrate are heated under reflux in 250 ml ethanol for 3 hours. The cooled solution is concentrated under vacuum and the residue is taken up in chloroform. The suspension is filtered and the residue is distributed between chloroform and 10% sodium hydroxide solution. The combined organic phases are dried over sodium sulfate and steam evaporated under vacuum until dry. The resin is further processed without further purification: Yield 11.7 g (82%).

reactant | 2-[4-(4-phenyl-piperidin-1-yl)-butyl]-isoin-dolin-1,3-dione | 61.2 mmol, 20 g | C1(=CC=CC=C1)C1CCN(CC1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C23H26N2O2
reactant | hydrazine hydrate | 122.5 mmol, 6.1 g | O.NN
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-(4-Phenyl-piperidin-1-yl)-butylamine | C1(=CC=CC=C1)C1CCN(CC1)CCCCN | C15H24N2
